US07271274B2
To a solution of probucol (2.93 g, 5.7 mmole) in 100 ml of THF were added Ph3P (1.63 g, 6.2 mmole) and 3-[2,2-dimethyl-1,3-dioxolane-4(S)-yl]-propanol (1.0 g, 6.2 mmole). The mixture was cooled to 0° C. with an ice bath, and DEAD (1.1 g, 6.2 mmol) was then added dropwise under nitrogen. The mixture was stirred overnight while allowed to warm to room temperature and then heated to reflux. The reaction mixture was cooled and concentrated to an oily residue when HPLC and TLC showed that the new peak ceased to grow. Chromatography on silica gel with gradient solvent from hexanes to 25% EtOAc in hexanes to afford 1.3 g (35.1%) 2,6-di-tert-butyl-4-(1-{3,5-di-tert-butyl-4-[3-(2,2-dimethyl-[1,3]dioxolan-4(R)-yl)-propoxy]-phenylsulfanyl}-1-methyl-ethylsulfanyl)phenol as a white solid. 1H-NMR (CDCl3) δ 7.53 (s, 2H), 7.45 (s, 2H), 5.37(s, 1H), 4.05–4.17 (m, 2H), 3.71–3.77 (m, 2H), 3.35 (t, J=2.5 Hz, 1H), 1.90–2.00 (m, 2H), 1.63–1.73 (m, 2H), 1.42–1.46 (m, 42H). MS m/z: 676.4429 ([M+NH4]+, 25%)

reactant | probucol | 5.7 mmole, 2.93 g | CC(C)(C)C=1C=C(C=C(C1O)C(C)(C)C)SC(C)(C)SC2=CC(=C(C(=C2)C(C)(C)C)O)C(C)(C)C | C31H48O2S2
reactant | Ph3P | 6.2 mmole, 1.63 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
reactant | 3-[2,2-dimethyl-1,3-dioxolane-4(S)-yl]-propanol | 6.2 mmole, 1.0 g | CC1(OC[C@@H](O1)CCCO)C | C8H16O3
reactant | DEAD | 6.2 mmol, 1.1 g | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | THF | 100 ml | C1CCOC1 | C4H8O
product | 2,6-di-tert-butyl-4-(1-{3,5-di-tert-butyl-4-[3-(2,2-dimethyl-[1,3]dioxolan-4(R)-yl)-propoxy]-phenylsulfanyl}-1-methyl-ethylsulfanyl)phenol | 1.3 g, 35.1% | C(C)(C)(C)C1=C(C(=CC(=C1)SC(C)(C)SC1=CC(=C(C(=C1)C(C)(C)C)OCCC[C@H]1OC(OC1)(C)C)C(C)(C)C)C(C)(C)C)O | C39H62O4S2
